US08486962B2
To a solution of diethyl-carbamic acid-3-nitro-phenyl ester (300 mg, 1.26 mmol) in ethyl acetate (5 ml) was added stannous chloride dihydrate (1.08 g, 4.8 mmol) and stirred for 6 hr at room temperature. The reaction mixture was diluted with ethyl acetate and washed with sodium hydroxide solution. The organic layer was separated, washed with brine, dried and concentrated under reduced pressure to give diethyl-carbamic acid 3-aminophenyl ester (120 mg, 45%).

reactant | diethyl-carbamic acid-3-nitro-phenyl ester | 1.26 mmol, 300 mg | [N+](=O)([O-])C=1C=C(C=CC1)OC(N(CC)CC)=O | C11H14N2O4
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | diethyl-carbamic acid 3-aminophenyl ester | 120 mg, 45% | NC=1C=C(C=CC1)OC(N(CC)CC)=O | C11H16N2O2
